US07071201B2
Example 39: Synthesis of 1-[1-(4-propionylaminomethylphenethyl)piperidin-4-yl]-3-methylindoline
1-[1-(4-Aminomethylphenethyl)piperidin-4-yl]-3-methylindoline (0.1 g) and propionyl chloride (0.028 ml) were treated as in Example 36 to give the title compound (0.122 g) as a pale yellow oil (yield: quantitative).

reactant | 1-[1-(4-Aminomethylphenethyl)piperidin-4-yl]-3-methylindoline | 0.1 g | NCC1=CC=C(CCN2CCC(CC2)N2CC(C3=CC=CC=C23)C)C=C1 | C23H31N3
reactant | propionyl chloride | 0.028 ml | C(CC)(=O)Cl | C3H5ClO
product | 1-[1-(4-propionylaminomethylphenethyl)piperidin-4-yl]-3-methylindoline | 0.122 g, yield: quantitative | C(CC)(=O)NCC1=CC=C(CCN2CCC(CC2)N2CC(C3=CC=CC=C23)C)C=C1 | C26H35N3O
